US04644042
52.1 g of 35% hydrochloric acid and 13.4 g of water were added to 69.6 g (0.5 mol) of N-cyclohexylallylamine under cooling to maintain the temperature below 20° C. to obtain a 65.0% aqueous solution of N-cyclohexylallylamine hydrochloride (hereinafter abbreviated as CHAA.HCl). This solution was added with 2.64 g of initiator 1 and polymerized at 60° C. for 48 hours after the manner of Example 1, followed by the same treatment as in Example 1 to obtain 79.0 g of white powder (conversion: 89.9%).

reactant | hydrochloric acid | 52.1 g | Cl | ClH
reactant | N-cyclohexylallylamine | 0.5 mol, 69.6 g | C1(CCCCC1)C=CCN | C9H17N
solvent | water | 13.4 g | O | H2O
product | N-cyclohexylallylamine hydrochloride | Cl.C1(CCCCC1)C=CCN | InChI=1S/C9H17N.ClH/c10-8-4-7-9-5-2-1-3-6-9;/h4,7,9H,1-3,5-6,8,10H2;1H
